US08097759B2
5-Bromo-N-[4-chloro-3-(trifluoromethyl)phenyl]-2-hydroxybenzamide (Compound No. 109)
Using 5-bromosalicylic acid and 4-chloro-3-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 4-chloro-3-(trifluoromethyl)aniline | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
product | 5-Bromo-N-[4-chloro-3-(trifluoromethyl)phenyl]-2-hydroxybenzamide | Yield: 37.4% | BrC=1C=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C1)O | C14H8BrClF3NO2
